US05686421
3a. Z-Arg-Gly-OtBu
39.6 g of DCC are added at 0° C. to a solution of 55 g of Z-Arg-OH, 30.18 g of HCl.H-Gly-OtBu and 24.3 g of HOBt in 400 ml of dimethylformamide. The mixture is left to stir at 0° C. for 1 hour and at room temperature for 3 hours and to stand at room temperature overnight. The DC-urea is filtered off with suction and the filtrate is concentrated. The residue is subjected to countercurrent partition between ethyl acetate and saturated NaHCO3 solution (400 ml each). This results in the required substance precipitating in the first separating funnel after the 3rd stage.

reactant | DCC | 39.6 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Z-Arg-OH | 55 g | N([C@@H](CCCNC(N)=N)C(=O)O)C(=O)OCC1=CC=CC=C1 | C14H20N4O4
reactant | HCl | 30.18 g | Cl | ClH
reactant | H-Gly-OtBu | NCC(=O)OC(C)(C)C | C6H13NO2
reactant | HOBt | 24.3 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | Z-Arg-Gly-OtBu | N([C@@H](CCCNC(N)=N)C(=O)NCC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C20H31N5O5
